US07285558B2
N-(2-aminoethyl)-5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid and ethane-1,2-diamine using diethyl cyanophosphonate as a coupling reagent. Mass: 551.15 (M+H).

reactant | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC(C)C | C25H25ClN6O4
reactant | ethane-1,2-diamine | C(CN)N | C2H8N2
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | N-(2-aminoethyl)-5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxamide | NCCNC(=O)C1=CN(C(=C1)C=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CNC1=CC=C(C=C21)Cl)C | C27H31ClN8O3
